OP level 4 case 14: resistive sensor matrix
* Stress-mesh topology family adapted from Qucs-S RCL ladder and LC-filter example families; primitive-only subset: https://github.com/ra3xdh/qucs_s
VDRV in 0 DC 2.5
RCORE1 in out 1.2k
RCORE2 out 0 2.7k
RF001 out n002 180
RG001 n002 0 13k
RB001 n002 in 5k
RB002 n002 in 8k
RX001 n002 in 22k
RX002 n002 in 23k
RX003 n002 in 24k
RX004 n002 in 25k
RF002 n002 n003 316
RG002 n003 0 21k
RB003 n003 out 13k
RB004 n003 in 16k
RX005 n003 in 30k
RX006 n003 in 31k
RX007 n003 in 32k
RX008 n003 in 33k
RF003 n003 n004 452
RG003 n004 0 29k
RB005 n004 n002 10k
RB006 n004 in 7k
RX009 n004 in 38k
RX010 n004 in 39k
RX011 n004 in 40k
RX012 n004 in 41k
RF004 n004 n005 265
RG004 n005 0 14k
RB007 n005 n003 7k
RB008 n005 out 15k
RX013 n005 in 46k
RX014 n005 in 18k
RX015 n005 in 19k
RX016 n005 in 20k
RF005 n005 n006 401
RG005 n006 0 22k
RB009 n006 n004 4k
RB010 n006 n002 6k
RX017 n006 in 25k
RX018 n006 in 26k
RX019 n006 in 27k
RX020 n006 in 28k
RF006 n006 n007 214
RG006 n007 0 30k
RB011 n007 n005 12k
RB012 n007 n003 14k
RX021 n007 in 33k
RX022 n007 in 34k
RX023 n007 in 35k
RX024 n007 in 36k
RF007 n007 n008 350
RG007 n008 0 15k
RB013 n008 n006 9k
RB014 n008 n004 5k
RX025 n008 in 41k
RX026 n008 in 42k
RX027 n008 in 43k
RX028 n008 in 44k
RF008 n008 n009 486
RG008 n009 0 23k
RB015 n009 n007 6k
RB016 n009 n005 13k
RX029 n009 in 20k
RX030 n009 in 21k
RX031 n009 in 22k
RX032 n009 in 23k
RF009 n009 n010 299
RG009 n010 0 31k
RB017 n010 n008 3k
RB018 n010 n006 21k
RX033 n010 in 28k
RX034 n010 in 29k
RX035 n010 in 30k
RX036 n010 in 31k
RF010 n010 n011 435
RG010 n011 0 16k
RB019 n011 n009 11k
RB020 n011 n007 12k
RX037 n011 in 36k
RX038 n011 in 37k
RX039 n011 in 38k
RX040 n011 in 39k
RF011 n011 n012 248
RG011 n012 0 24k
RB021 n012 n010 8k
RB022 n012 n008 20k
RX041 n012 in 44k
RX042 n012 in 45k
RX043 n012 in 46k
RX044 n012 in 18k
RF012 n012 n013 384
RG012 n013 0 32k
RB023 n013 n011 5k
RB024 n013 n009 11k
RX045 n013 in 23k
RX046 n013 in 24k
RX047 n013 in 25k
RX048 n013 in 26k
RF013 n013 n014 197
RG013 n014 0 17k
RB025 n014 n012 13k
RB026 n014 n010 19k
RX049 n014 in 31k
RX050 n014 in 32k
RX051 n014 in 33k
RX052 n014 in 34k
RF014 n014 n015 333
RG014 n015 0 25k
RB027 n015 n013 10k
RB028 n015 n011 10k
RX053 n015 in 39k
RX054 n015 in 40k
RX055 n015 in 41k
RX056 n015 in 42k
.op
.print op v(in) v(out) i(VDRV)
.end
