OP level 3 case 09: bridged rc mesh
* Stress-mesh topology family adapted from Qucs-S RCL ladder and LC-filter example families; primitive-only subset: https://github.com/ra3xdh/qucs_s
VDRV in 0 DC 2.5
RCORE1 in out 1.2k
RCORE2 out 0 2.7k
CCORE out 0 12n
RF001 out n002 180
RG001 n002 0 13k
CF001 n002 0 4n
RB001 n002 in 8k
RX001 n002 in 22k
RX002 n002 in 23k
RX003 n002 in 24k
RX004 n002 in 25k
RF002 n002 n003 316
RG002 n003 0 21k
CF002 n003 0 12n
RB002 n003 in 16k
RX005 n003 in 30k
RX006 n003 in 31k
RX007 n003 in 32k
RX008 n003 in 33k
RF003 n003 n004 452
RG003 n004 0 29k
CF003 n004 0 7n
RB003 n004 in 7k
RX009 n004 in 38k
RX010 n004 in 39k
RX011 n004 in 40k
RX012 n004 in 41k
RF004 n004 n005 265
RG004 n005 0 14k
CF004 n005 0 2n
RB004 n005 out 15k
RX013 n005 in 46k
RX014 n005 in 18k
RX015 n005 in 19k
RX016 n005 in 20k
RF005 n005 n006 401
RG005 n006 0 22k
CF005 n006 0 10n
RB005 n006 n002 6k
RX017 n006 in 25k
RX018 n006 in 26k
RX019 n006 in 27k
.op
.print op v(in) v(out) i(VDRV)
.end
